US07855297B2
By the reaction and treatment in the same manner as in Preparation Example 18 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (20.0 g) and 5-amino-2-methoxypyridine (8.72 g), as starting materials, 5-benzyloxy-N-(6-methoxypyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (23.9 g) was obtained.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 20.0 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | 5-amino-2-methoxypyridine | 8.72 g | NC=1C=CC(=NC1)OC | C6H8N2O
product | 5-benzyloxy-N-(6-methoxypyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 23.9 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC=1C=NC(=CC1)OC | C24H24N2O3
